US05885999
b) N-[2-(Piperazin-1-yl)phenylmethyl]acetamide Hydrochloride
Methanolic hydrogen chloride (4M, 5 mL) was added to a stirred, cooled (0° C.) suspension of N-[2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethyl]acetamide (668 mg, 2 mmol) in methanol (2 mL) and the mixture was stirred at room temperature for 4 h. The solvent was evaporated under reduced pressure to give the title compound as a colorless foam (536 mg, 99%), δH (360 MHz, d6 -DMSO) 9.20 (2H, br s), 8.26 (1H, br t, J 5.8 Hz), 7.26 (2H, m), 7.12 (2H, m), 4.33 (2H, d, J 5.8 Hz), 3.22 (4H, m), 3.04 (4H, m), and 1.89 (3H, s). m/e (ES+) 234 (MH+).

reactant | hydrogen chloride | 4M, 5 mL | Cl | ClH
reactant | N-[2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethyl]acetamide | 2 mmol, 668 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNC(C)=O | C18H27N3O3
solvent | methanol | 2 mL | CO | CH4O
product | N-[2-(Piperazin-1-yl)phenylmethyl]acetamide Hydrochloride | 536 mg, 99% | Cl.N1(CCNCC1)C1=C(C=CC=C1)CNC(C)=O | InChI=1S/C13H19N3O.ClH/c1-11(17)15-10-12-4-2-3-5-13(12)16-8-6-14-7-9-16;/h2-5,14H,6-10H2,1H3,(H,15,17);1H
